US05807871
A solution of 1,2-benzisoxazole-3-acetic acid (prepared according to G. Casini et al, J. Het. Chem. 6, 1969, 279) (18 g), ether saturated with dry HCI (150 ml) and methanol (200 ml) was stirred for 2 h at room temperature. Removal of the volatiles in vacuo gave methyl 1,2-benzisoxazole-3-acetate (17 g) as an oil.

reactant | 1,2-benzisoxazole-3-acetic acid | 18 g | O1N=C(C2=C1C=CC=C2)CC(=O)O | C9H7NO3
reactant | ether | CCOCC | C4H10O
solvent | methanol | 200 ml | CO | CH4O
product | methyl 1,2-benzisoxazole-3-acetate | 17 g | O1N=C(C2=C1C=CC=C2)CC(=O)OC | C10H9NO3
